US07009053B2
To a solution of 8-Nitro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester (10 g, 38.14 mmol) in 100 ml of thionyl chloride in a 250 ml round bottom flask was added a catalytic amount of 200 ul of dimethyl acetamide. The mixture was heated and refluxed for 2 hrs with stirring. The reaction was monitered by TLC (n-hexanelethyl acetate=3/1). After completing and cooling to room temperature, thiony chloride was removed under vacuum and 100 ml of water was added. The residue was extracted three times with 100 ml of ethyl acetate each time and the organic layer was dried over magnesium sulfate and filtrated. The residue was purified by column chromatography (hexan/ethyl acetate=3/1) to give 8-nitro-4-chloro-quinoline-3-carboxylic acid ethyl ester (9.5 g, 33.85 mmol, 89%)

reactant | 8-Nitro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 38.14 mmol, 10 g | C(C)OC(=O)C1=CNC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C12H10N2O5
reactant | dimethyl acetamide | 200 ul | CC(=O)N(C)C | C4H9NO
reactant | acetate | C(C)(=O)[O-]
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 8-nitro-4-chloro-quinoline-3-carboxylic acid ethyl ester | 33.85 mmol, 9.5 g, 89% | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)[N+](=O)[O-] | C12H9ClN2O4
